US08039463B2
tert-butanol (2.8 mL, 37.8 mmol) was added to a stirred solution of malonic acid monoethyl ester (5 g, 37.8 mmol) in acetonitrile (45 mL). DCC (8.58 g, 41.6 mmol) dissolved in acetonitrile (5 mL) was added dropwise with stirring over a period of 2 hours. The reaction mixture was filtered and the filtrate was concentrated to afford 4.72 g (66%) of malonic acid tert-butyl ester ethyl ester. LCMS: 189.11 (M+1)+ 93.4%, 1H NMR: (CDCl3): δ 4.2 (q, 2H), 3.3 (s, 2H), 1.4 (s, 9H), 1.3 (t, 3H).

reactant | tert-butanol | 37.8 mmol, 2.8 mL | C(C)(C)(C)O | C4H10O
reactant | malonic acid monoethyl ester | 37.8 mmol, 5 g | C(C)OC(CC(=O)O)=O | C5H8O4
reactant | DCC | 41.6 mmol, 8.58 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | acetonitrile | 45 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | malonic acid tert-butyl ester ethyl ester | 4.72 g, 66% | C(C)OC(CC(=O)OC(C)(C)C)=O | C9H16O4
